US06245328B1
3.62 g (19.2 mmol) of (2S,3R)-1,2-epoxy-3-(2-methoxy-2-methylethoxy)hexane in 30 ml of diethyl ether were added dropwise at 0° C. under argon over the course of 15 minutes to a stirred suspension of 0.85 g (22.2 mmol) of lithium aluminum hydride in 100 ml of diethyl ether. The mixture was subsequently then stirred at 20° C. for 36 hours. The excess of lithium aluminum hydride was decomposed by cautious addition of 1.2 ml of water. After 5 minutes, 4 ml of a 10% strength by weight sodium hydroxide solution were added and the mixture was vigorously stirred for 10 minutes. The precipitate was then filtered off, and the filter residue was extracted three times with 50 ml of tetrahydrofuran. The combined organic phases were dried over anhydrous sodium sulfate and concentrated. The residue was distilled over potassium carbonate and yielded (25,3R)-3-(2-methoxy-2-methylethoxy)hexan-2-ol in a yield of 83% (b.p.: 71-73° C./3 hPa; [α]D19=−10.3° (c=2.3 in dichloromethane)).

reactant | (2S,3R)-1,2-epoxy-3-(2-methoxy-2-methylethoxy)hexane | 19.2 mmol, 3.62 g | O1C[C@H]1[C@@H](CCC)OCC(C)OC | C10H20O3
reactant | lithium aluminum hydride | 22.2 mmol, 0.85 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.2 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (25,3R)-3-(2-methoxy-2-methylethoxy)hexan-2-ol | yield of 83% | COC(CO[C@@H]([C@H](C)O)CCC)C | C10H22O3
